US04504490
2-(3-Acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)-aniline (formula II)
59 g of 2-(3-acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene in 200 ml of methanol and 200 ml of 2-methoxyethanol are hydrogenated under normal pressure with a catalytic amount of Raney nickel. After hydrogen uptake is complete, the catalyst is filtered off with suction, washed with warm 2-methoxyethanol and the solution is evaporated under reduced pressure. Water is added to the residue and it is then filtered off with suction, washed with water and dried over sodium hydroxide, melting point 182° C.

reactant | 2-(3-acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene | 59 g | C(C)(=O)NC(NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-])=O | C16H12F3N3O7S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
solvent | 2-methoxyethanol | 200 ml | COCCO | C3H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 2-(3-Acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)-aniline | C(C)(=O)NC(NC1=C(N)C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C16H14F3N3O5S
